US08084449B2
A mixture of N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (50 mg, 0.076 mmol), 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine (30.6 mg, 0.076 mmol), Na2CO3 (24.27 mg, 0.229 mmol) and PdCl2(dppf) (5.59 mg, 7.63 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and was then heated in a Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain the crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with saturated 1 N NaOH, and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-({6-chloro-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide as a solid (10 mg, 17.2%). LC-MS m/z 763 M+, 0.81 min (ret time).

reactant | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.076 mmol, 50 mg | BrC=1C=C(C=CC1Cl)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C30H33BrClN7O3
reactant | 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine | 0.076 mmol, 30.6 mg | CN1CCC(CC1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H30BNO2
reactant | Na2CO3 | 0.229 mmol, 24.27 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 7.63 μmol, 5.59 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-({6-chloro-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 10 mg, 17.2% | ClC1=CC=C(C=C1C1=CC(=CC=C1)CC1CCN(CC1)C)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C43H51ClN8O3
